US07989441B2
To a solution of (S)-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-pentanedioic acid 5-benzyl ester (580 mg, 1.59 mmol) in ether (25 mL) at 0° C., is added PCl5 (920 mg, 4.38 mmol) in one portion. After stirring at 25° C. for 40 minutes, ether is removed by evaporation, and the residue is dissolved in 20 mL of THF, and is added to a solution of (S)-3-phenethylcarbamoyl-tetrahydro-pyridazine-1-carboxylic acid benzyl ester (580 mg) and N-methylmorpholine (0.74 mL, 6.77 mmol) in THF (10 mL) at 0° C. slowly. After stirring at room temperature for 2 hours, the reaction mixture is diluted with 100 mL of ether and washed with 2×20 mL of water. The combined organic layers is dried over Na2SO4 and concentrated, and purified by chromatography (CH2Cl2/MeOH:97/3) to give (S)-2-[(S)-4-benzyloxycarbonyl-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyryl]-3-phenethylcarbamoyl-tetrahydro-pyridazine-1-carboxylic acid benzyl ester (1.13 g, 99.2%) as pale solid. (NMR and MS data confirmed, U-3133-62).

reactant | (S)-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-pentanedioic acid 5-benzyl ester | 1.59 mmol, 580 mg | C(C1=CC=CC=C1)OC(CC[C@@H](C(=O)O)N1C(C2=CC=CC=C2C1=O)=O)=O | C20H17NO6
reactant | PCl5 | 4.38 mmol, 920 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | (S)-3-phenethylcarbamoyl-tetrahydro-pyridazine-1-carboxylic acid benzyl ester | 580 mg | C(C1=CC=CC=C1)OC(=O)N1N[C@@H](CCC1)C(NCCC1=CC=CC=C1)=O | C21H25N3O3
reactant | N-methylmorpholine | 6.77 mmol, 0.74 mL | CN1CCOCC1 | C5H11NO
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
product | (S)-2-[(S)-4-benzyloxycarbonyl-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyryl]-3-phenethylcarbamoyl-tetrahydro-pyridazine-1-carboxylic acid benzyl ester | 1.13 g, 99.2% | C(C1=CC=CC=C1)OC(=O)N1N([C@@H](CCC1)C(NCCC1=CC=CC=C1)=O)C([C@H](CCC(=O)OCC1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O)=O | C41H40N4O8
